US08258130B2
Diethyl-iso-propylamine (1.88 mmol) is added a solution of 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (0.75 mmol), pyrrolo[3,2-b]pyridine-1-ylamine (0.75 mmol) and TBTU (0.9 mmol) in anhydrous DMF (7 mL) at rt, and the reaction mixture is stirred at 80° C. for 8 h. The reaction mixture is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-10% MeOH in DCM to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid pyrrol[3,2-b]pyridine-1-ylamide (155 mg, 63%) as a solid. MS: 331 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.89 (s, 3H), 7.01 (d, H), 7.64-7.77 (m, 2H), 8.15 (m, H), 8.25 (m, H), 8.59-8.76 (m, 3H), 8.82 (d, H), 9.31 (s, 2H). IC50=13 nM.

reactant | Diethyl-iso-propylamine | 1.88 mmol | C(C)N(C(C)C)CC | C7H17N
reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 0.75 mmol | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
reactant | pyrrolo[3,2-b]pyridine-1-ylamine | 0.75 mmol | N1(C=CC2=NC=CC=C21)N | C7H7N3
reactant | TBTU | 0.9 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid pyrrol[3,2-b]pyridine-1-ylamide | 155 mg, 63% | N1(C=CC2=NC=CC=C21)NC(=O)C=2C(=NC(=NC2)C2=NC=CC=C2)C | C18H14N6O
